US07279478B2
Zinc chloride (1.12 l of 1M solution in ether, 1120 mmol) was added to 500 ml ether at −40° C. (5S)-2-(4-bromophenyl)-5-isobutyl-1,3-dioxolan-4-one (3:2 mixture of cis/trans) (56 g, 187 mmol) was then added dropwise in 200 ml ether (over 15 min), followed by phenylmagnesium bromide (125 ml of a 3M solution in ether, 374 mmol) (dropwise over 45 min). The solution was stirred at 0° C. for 2 hours. The reaction was quenched at 0° C. with 800 ml of a saturated solution of NH4Cl, the phases were separated and the aqueous layer extracted with 800 ml ether. The organic layers were combined, washed with brine, dried with MgSO4 and the solvent was removed. (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-4-methylpentanoic acid (de=86%) was obtained after purification on silica gel (5% ethyl acetate/toluene).

reactant | (5S)-2-(4-bromophenyl)-5-isobutyl-1,3-dioxolan-4-one | 187 mmol, 56 g | BrC1=CC=C(C=C1)C1O[C@H](C(O1)=O)CC(C)C | C13H15BrO3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | ether | 200 ml | CCOCC | C4H10O
catalyst | Zinc chloride | 1120 mmol, 1M, 1.12 l | [Cl-].[Zn+2].[Cl-]
solvent | ether | 500 ml | CCOCC | C4H10O
product | (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-4-methylpentanoic acid | BrC1=CC=C(C=C1)[C@H](O[C@H](C(=O)O)CC(C)C)C1=CC=CC=C1 | C19H21BrO3
